US05700839
A solution of 1.4 g of methyl 2-methyl-4-ethoxy-5-methylsulfonylbenzoate (obtainable by reaction of 2-methyl-4-chloro-5-methylsulfonylbenzoic acid with sodium ethoxide and subsequent esterification) and 1.5 g of guanidine in 50 ml of methanol is boiled for five hours and the solvent is then removed. The residue is treated with water, and the crystallizate which remains is filtered off with suction and treated with dilute sodium hydroxide solution. The solid residue is filtered off and recrystallized from ethanol, and N-diaminomethylene-2-methyl-4-ethoxy-5-methylsulfonylbenzamide is obtained, m.p. 201°-203°.

reactant | methyl 2-methyl-4-ethoxy-5-methylsulfonylbenzoate | 1.4 g | CC1=C(C(=O)OC)C=C(C(=C1)OCC)S(=O)(=O)C | C12H16O5S
reactant | guanidine | 1.5 g | NC(=N)N | CH5N3
solvent | methanol | 50 ml | CO | CH4O
product | N-diaminomethylene-2-methyl-4-ethoxy-5-methylsulfonylbenzamide | NC(=NC(C1=C(C=C(C(=C1)S(=O)(=O)C)OCC)C)=O)N | C12H17N3O4S
